US04552880
4-(4-Cyanobenzoyl)-5-ethyl-1,3-dihydro-2H-imidazol-2-one
To a stirred mixture of 3.38 grams (0.03 mole) of 1,3-dihydro-4-ethyl-2H-imidazol-2-one, 13.3 grams (0.1 mole) of anhydrous aluminum chloride and 50 ml of nitrobenzene is added 5.0 grams (0.03 mole) of 4-cyanobenzoyl chloride. The mixture is stirred at 80° C. for 6 hours, then poured on 500 grams of ice. The resulting precipitate is washed with diethyl ether and water and is recrystallized from 500 ml ethyl alcohol to give 4.76 grams of the title compound. M.P. 269-271° C.

reactant | 1,3-dihydro-4-ethyl-2H-imidazol-2-one | 0.03 mole, 3.38 grams | C(C)C=1NC(NC1)=O | C5H8N2O
reactant | aluminum chloride | 0.1 mole, 13.3 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-cyanobenzoyl chloride | 0.03 mole, 5.0 grams | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-(4-Cyanobenzoyl)-5-ethyl-1,3-dihydro-2H-imidazol-2-one | 4.76 grams | C(#N)C1=CC=C(C(=O)C=2NC(NC2CC)=O)C=C1 | C13H11N3O2
